US04822805
To a solution of 1-hydroxy-2-(3,4-dimethoxyphenyl)-4-ethyl-5-(3-pyridyl)imidazole (1.86 g) in N,N-dimethylformamide (38 ml) was added phosphorus trichloride (0.10 ml) under ice-cooling. The mixture was stirred for 2 hours at 5° to 10° C. The reaction mixture was poured into water, neutralized with aqueous sodium bicarbonate, and extracted with ethyl acetate. The extract was washed with water, dried, and evaporated. The residue was subjected to column chromatography on silica gel eluting with a mixture of chloroform and methanol (methanol 1% to 5%). The fractions were collected and evaporated to give 2-(3,4-dimethoxyphenyl)-4-ethyl-5-(3-pyridyl)imidazole (0.89 g), which was diluted with methanol (8 ml). 1.2 Equivalent of hydrogen chloride gas was bubbled thereinto and diethyl ether was added to the mixture under cooling. The precipitate was collected and dried to give 2-(3,4-dimethoxyphenyl)-4-ethyl-5-(3-pyridyl)imidazole hydrochloride (0.43 g).

reactant | 1-hydroxy-2-(3,4-dimethoxyphenyl)-4-ethyl-5-(3-pyridyl)imidazole | 1.86 g | ON1C(=NC(=C1C=1C=NC=CC1)CC)C1=CC(=C(C=C1)OC)OC | C18H19N3O3
reactant | phosphorus trichloride | 0.10 ml | P(Cl)(Cl)Cl | Cl3P
reactant | water | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 38 ml | CN(C=O)C | C3H7NO
product | 2-(3,4-dimethoxyphenyl)-4-ethyl-5-(3-pyridyl)imidazole | 0.89 g | COC=1C=C(C=CC1OC)C=1NC(=C(N1)CC)C=1C=NC=CC1 | C18H19N3O2
